US07098356B2
(2-(2-methyl-2-phenyl propan-1-yl)inden-1-yl)-N-(1,1-dimethylethyl)dimethylsilanamine.
To a mixture of 2-(2-methyl-2-phenyl propan-1-yl)indene (1.55 g, 6.2 mmol) in 50 mL of hexanes were added 4.0 mL of butyl lithium (1.6 M hexane; 1.02 equiv.). The mixture was stirred overnight, filtered, the solid was washed with hexanes and dried, recovering 1.05g (66 percent of indenyl lithium salt) of very pale yellowish solid. The solid was dissolved in THF and a solution of N-(1,1-dimethylethyl)dimethylsilanamine chloride (0.7 g, 1.03 equiv.; 4.2 mmol) in 20 mL of THF was added and the solution was stirred overnight. The volatiles were pumped off, the residue extracted with hexane, filtered and the filtrate was then dried in vacuo to give 1.5 g (96 percent) of a yellow oil.

reactant | 2-(2-methyl-2-phenyl propan-1-yl)indene | 6.2 mmol, 1.55 g | CC(CC=1CC2=CC=CC=C2C1)(C)C1=CC=CC=C1 | C19H20
reactant | butyl lithium | 1.6 M, 4.0 mL, 1.02 equiv. | C(CCC)[Li]
reactant | N-(1,1-dimethylethyl)dimethylsilanamine chloride | 4.2 mmol, 0.7 g, 1.03 equiv. | [Cl-].CC(C)(C)N[SiH](C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-(2-methyl-2-phenyl propan-1-yl)inden-1-yl)-N-(1,1-dimethylethyl)dimethylsilanamine | 1.5 g, 96 percent | CC(CC=1C(C2=CC=CC=C2C1)[Si](NC(C)(C)C)(C)C)(C)C1=CC=CC=C1 | C25H35NSi
